US06660735B2
A solution of the compound of Example 46, 1-[2-(2-aminoethoxy)ethyl]-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine (800 mg, 2.67 mmol) in 30 mL of CH2Cl2 was stirred vigorously and treated with phenyl isocyanate (0.290 mL, 2.67 mmol). After 18 h, the reaction was concentrated to yield an off white solid. Purification by column chromatography (SiO2, 95:5:0.5 CHCl3:MeOH:NH4OH) gave 559 mg of N-{2-[2-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}-N′-phenylurea as a white solid.

reactant | 1-[2-(2-aminoethoxy)ethyl]-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine | 2.67 mmol, 800 mg | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC | C16H21N5O
reactant | phenyl isocyanate | 2.67 mmol, 0.290 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[2-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}-N′-phenylurea | 559 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNC(=O)NC2=CC=CC=C2)CC | C23H26N6O2
